US08426411B2
To a mixture of 4-(3,6-dihydropyrazolo[4,3-d]pyrrolo[2,3-b]pyridin-1-yl)bicyclo[2.2.2]octan-1-amine (0.075 g, 0.267 mmol) in DMF (2.5 mL) was added TEA (0.06 mL, 0.40 mmol) and cyclopropanesulfonyl chloride (0.027 mL, 0.27 mmol, Matrix). The reaction mixture was stirred at ambient temperature for about 16 h. Cyclopropanesulfonyl chloride (0.014 mL, 0.133 mmol, Matrix) was added to the reaction mixture and the reaction continued to stir at ambient temperature for about 4 h. The reaction mixture was diluted with water (10 mL) and extracted with DCM (3×10 mL). The combined organic layers were washed with brine (10 mL), dried over anhydrous Na2SO4, filtered, and concd under reduced pressure. The residue was purified by silica gel chromatography eluting with a gradient of 0-10% MeOH in DCM to give N-(4-(3,6-dihydropyrazolo[4,3-d]pyrrolo[2,3-b]pyridin-1-yl)bicyclo[2.2.2]octan-1-yl)cyclopropanesulfonamide (0.015 g, 15%) as a white solid: LC/MS (Table 1, Method b) Rt=1.72 min; MS m/z: 386 (M+H)+.

reactant | 4-(3,6-dihydropyrazolo[4,3-d]pyrrolo[2,3-b]pyridin-1-yl)bicyclo[2.2.2]octan-1-amine | 0.267 mmol, 0.075 g | C1(=NNC=2C1=C1C(=NC2)NC=C1)C12CCC(CC1)(CC2)N | C16H19N5
reactant | cyclopropanesulfonyl chloride | 0.27 mmol, 0.027 mL | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | Cyclopropanesulfonyl chloride | 0.133 mmol, 0.014 mL | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | N-(4-(3,6-dihydropyrazolo[4,3-d]pyrrolo[2,3-b]pyridin-1-yl)bicyclo[2.2.2]octan-1-yl)cyclopropanesulfonamide | 0.015 g, 15% | C1(=NNC=2C1=C1C(=NC2)NC=C1)C12CCC(CC1)(CC2)NS(=O)(=O)C2CC2 | C19H23N5O2S
